2103-05-04 07:25:00 Physician Resident Progress Note
Chief Complaint: The patient is a 25 y.o.f. with h/o mixed connective
   tissue disorder and interstitial lung disease who presented with
   headache, mental status changes, and agitation
   24 Hour Events:
   - CSF viral cx added on per ID
   - Cont vanc/ctx/amp/acyclovir per ID (meningoencephalitis)
   - Attempted presedex for sedation, pt very agitated on 0.7 mcg/kg,
   transitioned back to propofol with versed push (2mg) for agitation.
   - Able to wean sedation down from 100 propofol to 40.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Pruritus;
   Last dose of Antibiotics:
   Azithromycin - [**2103-5-3**] 06:30 PM
   Vancomycin - [**2103-5-3**] 09:00 PM
   Ampicillin - [**2103-5-4**] 04:05 AM
   Ceftriaxone - [**2103-5-4**] 05:10 AM
   Acyclovir - [**2103-5-4**] 05:40 AM
   Infusions:
   Propofol - 42 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-5-4**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 54 (54 - 107) bpm
   BP: 130/77(89) {99/54(64) - 146/96(105)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,368 mL
                                                                    606 mL
   PO:
             TF:
   IVF:
                                                                  1,368 mL
                                                                    606 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                  1,045 mL
   Urine:
                                                                  2,665 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,297 mL
                                                                   -439 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished, Intubated
   Eyes / Conjunctiva: PERRL, No sclera icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, no rashes or petechiae
   Neurologic: Sedated, responds to voice, does not follow commands, MAE,
   toes downgoing
   Labs / Radiology
   247 K/uL
   10.8 g/dL
   125
   0.6 mg/dL
   22 mEq/L
   3.2 mEq/L
   5 mg/dL
   108 mEq/L
   141 mEq/L
   31.8 %
   4.5 K/uL
        [image002.jpg]
                             [**2103-5-3**]  01:04 PM
                             [**2103-5-4**]  04:07 AM
   WBC
   4.5
   Hct
   31.8
   Plt
   247
   Cr
   0.8
   Glucose
   186
   Other labs: Lactic Acid:4.8 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   The patient is a 25 y.o.f. with h/o mixed connective tissue disorder
   and interstitial lung disease who presented with headache, mental
   status changes, and agitation.
   # MS changes
 Most likely etiology is meningitis vs encephalitis (HA,
   but altered MS making either a possibility) in the setting of symptoms,
   leukocytosis, and CSF findings.  Tox screen negative and no history of
   illicits.  Etiology of meningitis unclear at this point (gram stain
   unrevealing), but likely bacterial rather than viral, although both
   possible.  Listeria highest on differential at this point given
   prodrome and likely deficient cell mediated immunity in setting of
   chronic prednisone.  Does not appear to be meningococcus as no rash and
   would be more sick.  Pneumococcal, hemophilus possible.  Also must
   consider staph and GNR, but no recent surgery or advanced medical
   illness.   Given prednisone must also consider cryptococcus.  Could
   also consider EEE, west [**Doctor First Name 1871**], and [**Location (un) 2390**] encephalitis, although
   season may not be consistent.
   - Treat empirically with ceftriaxone, vancomycin, and ampicillin for
   pneumococcus, staph species, and listeria, respectively
   - Treat with HD steroids both for relative adrenal insufficiency and
   for meningitis
   - Empiric acyclovir for possible HSV
   - F/U CSF culture  - viral, fungal, bacterial -> gram stain negative,
   no cryptococcal antigen detected
   - F/U HSV PCR
   - F/U blood cultures
   - Consider EEE and west [**Doctor First Name 1871**] PCR on CSF, per ID, too early in the year
   but still a consideration
   - Based on records, patient does not appear to have a recent PPD, will
   consider placing today given chronic steroid use
   - C3 and C4 within normal limits
   - Cryoglobulins pending
   - MRI with/without gado of brain per ID today
   # Respiratory Failure
 Intubation for airway protection in the setting
   of meningitis.  Will likely be able to be extubated quickly, but would
   keep intubated until antibiotics can take effect and improve
   MS/agitation.  Patient started on presedex for sedation/analgesia and
   patient became very agitated. Required resedation with propofol and
   versed bolus.  Difficult to assess if agitation was due to waking up
   from sedation intubated, or if this represented continued delirium [**2-10**]
   whatever underlying process is ongoing.  Patient was minimally
   following commands at that time.  During the night, nursing states she
   was following commands briefly.
   - Keep patient intubated today until after MRI (will determine at what
   time it should occur)
   - Continue AC for now, will attempt to lighten sedation (propofol) to
   assess mental status. Fentanyl/ativan boluses prn agitation.  Change to
   PSV if able.  Can consider longer trial of presedex today with slower
   propofol wean to transition without acute agitation if weaning propofol
   alone with boluses is unsuccessful.
   # ILD
 Due to MCTD.   Improved on steroids and these have been tapered
   over the last few months.  Last PFTs stable when compared to prior.
   Prednisone decreased to 10 mg daily in [**3-17**]. Stopped atovaquone for PCP
   px on [**4-23**].  Plan was for rheumatology f/u and if inflammatory markers
   decreased, decrease prednisone to QOD for 2-3 months.  Currently
   stable.
   - Steroids as above
   - F/U with pulmonary as outpatient as planned
   # Metabolic acidosis
 Resolved. Anion gap of 25 on admission.  Serum
   and urine tox screens negative.  No osm gap.  No renal failure.  No
   evidence of DKA as no glucose or ketones in urine.  Lactate elevated
   and this was likely cause.
   - IVFs
   - Repeat lactate trending down
   - Recheck lactate today
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2103-5-3**] 10:30 AM
   22 Gauge - [**2103-5-3**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SC heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-05-04 09:42:00 Physician Attending Progress Note
Chief Complaint: altered mental status, with resulting need for mech
   vent for airway protection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25 yo woman with MCTD, IPF, on chronic low dose prednisone now with
   meningitis/encephalitis. Intubated in setting of severe agitation.
   24 Hour Events:
   ID consult appreciated.
   No change to ceftriaxone, vanc, amp, acyclovir abx.
   Thought mosquito-borne encephalitides not an issue this early.
   Sedated with propofol, with no plan to change sedation until after MRI
   head.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Pruritus;
   Last dose of Antibiotics:
   Azithromycin - [**2103-5-3**] 06:30 PM
   Ceftriaxone - [**2103-5-4**] 05:10 AM
   Acyclovir - [**2103-5-4**] 05:40 AM
   Ampicillin - [**2103-5-4**] 07:52 AM
   Vancomycin - [**2103-5-4**] 08:30 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: looks comfortable
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-5-4**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 55 (53 - 107) bpm
   BP: 145/86(101) {99/54(64) - 146/96(105)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,368 mL
                                                                    972 mL
   PO:
             TF:
   IVF:
                                                                  1,368 mL
                                                                    972 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                  1,805 mL
   Urine:
                                                                  2,665 mL
                                                                  1,805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,297 mL
                                                                   -833 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.8 g/dL
   247 K/uL
   125 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.2 mEq/L
   5 mg/dL
   108 mEq/L
   141 mEq/L
   31.8 %
   4.5 K/uL
        [image002.jpg]
                             [**2103-5-3**]  01:04 PM
                             [**2103-5-4**]  04:07 AM
   WBC
   4.[**12-14**] from 11
   Hct
   31.8
   Plt
   247
   Cr
   0.8
   0.6
   Glucose
   186
   125
   Other labs: Lactic Acid:4.8 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.2 mg/dL
   Fluid analysis / Other labs: no significant osm gap
   Assessment and Plan
   1. viral vs early bacterial with glucose low, protein moderately high.
   Broad differential: HSV encephalitis, Listeria meningoencephalitis
   (though no known risk factor), meningococal, Hflu meningitis, fungal
   Empiric ceftriaxone, ampicillin, vanco, acyclovir
   Complement normal and CSF not c/w lupus cerebritis.
   Dexamethasone
   2. Sepsis with elevated lactate- lactate improved, hemodynamically
   stable
   Good urine output. No further fluid resuscitation overnight.
    3. Resp failure- in setting of airway protection.
   At high risk for severe resp failure with any VAP, vent associated
   complication.
   After brain MRI will try to wean propofol, bolus ativan and fentanyl as
   needed. If bolus needs are too high-- leaning towards interfering with
   vent drive, will try dexmedetomidine to try to extubate.
   4. Metabolic acidosis normalized, no osm gap.
   5. Nutrition: deferred until after MRI and attempt at extubation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-5-3**] 10:30 AM
   22 Gauge - [**2103-5-3**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2103-05-05 08:20:00 Physician Resident Progress Note
Chief Complaint: 25 yo with MCTD and pulmonary interstital disease who
   p/w MS changes and LP c/w Meningitis
   24 Hour Events:
   - extubated; looking good
   - ID recommended cont current abx for now.  if doesn't get better, will
   need to consider fungals
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Pruritus;
   Last dose of Antibiotics:
   Azithromycin - [**2103-5-3**] 06:30 PM
   Acyclovir - [**2103-5-5**] 05:37 AM
   Ceftriaxone - [**2103-5-5**] 05:37 AM
   Ampicillin - [**2103-5-5**] 07:56 AM
   Vancomycin - [**2103-5-5**] 08:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-5-4**] 07:33 PM
   Heparin Sodium (Prophylaxis) - [**2103-5-5**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-5-5**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.1
   HR: 55 (53 - 78) bpm
   BP: 145/87(98) {79/48(0) - 167/95(108)} mmHg
   RR: 22 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,101 mL
                                                                  1,482 mL
   PO:
             TF:
   IVF:
                                                                  3,101 mL
                                                                  1,482 mL
   Blood products:
   Total out:
                                                                  3,820 mL
                                                                    670 mL
   Urine:
                                                                  3,820 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -719 mL
                                                                    812 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   10.5 g/dL
   135 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   142 mEq/L
   31.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2103-5-3**]  01:04 PM
                             [**2103-5-4**]  04:07 AM
                             [**2103-5-5**]  04:27 AM
   WBC
   4.5
   9.4
   Hct
   31.8
   31.1
   Plt
   247
   269
   Cr
   0.8
   0.6
   0.6
   Glucose
   186
   125
   135
   Other labs: Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   The patient is a 25 y.o.f. with h/o mixed connective tissue disorder
   and interstitial lung disease who presented with headache, mental
   status changes, and agitation.
    # MS changes
 Most likely etiology is meningitis vs encephalitis (HA,
   but altered MS making either a possibility) in the setting of symptoms,
   leukocytosis, and CSF findings.  Tox screen negative and no history of
   illicits.  Etiology of meningitis unclear at this point (gram stain
   unrevealing), but likely bacterial rather than viral, although both
   possible.  Listeria highest on differential at this point given
   prodrome and likely deficient cell mediated immunity in setting of
   chronic prednisone.  Does not appear to be meningococcus as no rash and
   would be more sick.  Pneumococcal, hemophilus possible.  Also must
   consider staph and GNR, but no recent surgery or advanced medical
   illness.   Given prednisone must also consider cryptococcus.  Could
   also consider EEE, west [**Doctor First Name 1871**], and [**Location (un) 2390**] encephalitis, although
   season may not be consistent.
   - Treat empirically with ceftriaxone, vancomycin, and ampicillin for
   pneumococcus, staph species, and listeria, respectively
   - Treat with HD steroids both for relative adrenal insufficiency and
   for meningitis
   - Empiric acyclovir for possible HSV
   - F/U CSF culture  - viral, fungal, bacterial -> gram stain negative,
   no cryptococcal antigen detected
   - F/U HSV PCR
   - F/U blood cultures
   - Consider EEE and west [**Doctor First Name 1871**] PCR on CSF, per ID, too early in the year
   but still a consideration
   - Based on records, patient does not appear to have a recent PPD, will
   consider placing today given chronic steroid use
   - C3 and C4 within normal limits
   - Cryoglobulins pending
   - MRI with/without gado of brain per ID today
   # Respiratory Failure
 Intubation for airway protection in the setting
   of meningitis.  Will likely be able to be extubated quickly, but would
   keep intubated until antibiotics can take effect and improve
   MS/agitation.  Patient started on presedex for sedation/analgesia and
   patient became very agitated. Required resedation with propofol and
   versed bolus.  Difficult to assess if agitation was due to waking up
   from sedation intubated, or if this represented continued delirium [**2-10**]
   whatever underlying process is ongoing.  Patient was minimally
   following commands at that time.  During the night, nursing states she
   was following commands briefly.
   - Keep patient intubated today until after MRI (will determine at what
   time it should occur)
   - Continue AC for now, will attempt to lighten sedation (propofol) to
   assess mental status. Fentanyl/ativan boluses prn agitation.  Change to
   PSV if able.  Can consider longer trial of presedex today with slower
   propofol wean to transition without acute agitation if weaning propofol
   alone with boluses is unsuccessful.
   # ILD
 Due to MCTD.   Improved on steroids and these have been tapered
   over the last few months.  Last PFTs stable when compared to prior.
   Prednisone decreased to 10 mg daily in [**3-17**]. Stopped atovaquone for PCP
   px on [**4-23**].  Plan was for rheumatology f/u and if inflammatory markers
   decreased, decrease prednisone to QOD for 2-3 months.  Currently
   stable.
   - Steroids as above
   - F/U with pulmonary as outpatient as planned
   # Metabolic acidosis
 Resolved. Anion gap of 25 on admission.  Serum
   and urine tox screens negative.  No osm gap.  No renal failure.  No
   evidence of DKA as no glucose or ketones in urine.  Lactate elevated
   and this was likely cause.
   - IVFs
   - Repeat lactate trending down
   - Recheck lactate today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-5-3**] 10:30 AM
   22 Gauge - [**2103-5-3**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2103-05-05 10:02:00 Physician Attending Progress Note
Chief Complaint: Resp Failure
   Mental Status Changes
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Pt extubated without event
   24 Hour Events:
                                History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Pruritus;
   Last dose of Antibiotics:
   Azithromycin - [**2103-5-3**] 06:30 PM
   Acyclovir - [**2103-5-5**] 05:37 AM
   Ceftriaxone - [**2103-5-5**] 05:37 AM
   Ampicillin - [**2103-5-5**] 07:56 AM
   Vancomycin - [**2103-5-5**] 08:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-5-4**] 07:33 PM
   Heparin Sodium (Prophylaxis) - [**2103-5-5**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: No(t) Joint pain
   Flowsheet Data as of  [**2103-5-5**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.1
   HR: 55 (53 - 78) bpm
   BP: 145/87(98) {79/48(0) - 167/95(108)} mmHg
   RR: 22 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,101 mL
                                                                  1,633 mL
   PO:
             TF:
   IVF:
                                                                  3,101 mL
                                                                  1,633 mL
   Blood products:
   Total out:
                                                                  3,820 mL
                                                                    670 mL
   Urine:
                                                                  3,820 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -719 mL
                                                                    963 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   269 K/uL
   135 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   142 mEq/L
   31.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2103-5-3**]  01:04 PM
                             [**2103-5-4**]  04:07 AM
                             [**2103-5-5**]  04:27 AM
   WBC
   4.5
   9.4
   Hct
   31.8
   31.1
   Plt
   247
   269
   Cr
   0.8
   0.6
   0.6
   Glucose
   186
   125
   135
   Other labs: Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.7 mg/dL
   Fluid analysis / Other labs: CSF-
   WBC-325, 94% lymphs
   Assessment and Plan
   25 yo female with history of MCTD and admit with mental status changes
   and positive LP. She has now had improved mental status and stability
   of ventilatory support.  Unifying diagnosis still remains to be defined
   but viral source of meningitis may well be at play--differential is
   obviously more extensive than that and empiric coverage is in place.  I
   would add the temporal lobe focus of seizure would be reasonable to
   consider as well.
   1)Respiratory Failure
with mental status improved she has tolerated
   extubation.
   -On room air
   -OOB to ambulate today
   2)Altered Mental Status-
   -CNS infection possible and suggested by increased WBC count
   -Continue with Acyclovir/Amp/CTX/Vanco
   -Appreciate ID support and input.
   -Await final cultures
   -Dexamethasone to continue given MRI findings but with clinical
   improvement may be able to consider D/C and certainly at 4 days.
   3)ICU-
   -Full code
   -To floor today
   ppp
   ICU Care
   Nutrition: Po intake to start
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2103-5-3**] 10:30 AM
   22 Gauge - [**2103-5-3**] 06:30 PM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code-To Floor
   Disposition :ICU
   Total time spent: 35 minutes